US05011947
2-Cyclopropyl-3,3-bis(4-fluorophenyl)-2-propenal
A solution of 2-cyclopropyl-3,3-bis(4-fluorophenyl)-2-propenol (0.3 g, 1.0 mmol) and pyridinium chlorochromate (0.5 g) in 20 mL of methylene chloride was stirred at 25° C for 18 hours during which time a gummy solid formed. The methylene chloride was decanted from the solid and the solution concentrated in vacuo. The residue was stirred with diethyl ether; the diethyl ether was decanted from some insoluble tar and the diethyl ether concentrated in vacuo. The residue was crystallized from petroleum ether to give 0.1 g of the title compound; m.p. =86°-88° C.

reactant | 2-cyclopropyl-3,3-bis(4-fluorophenyl)-2-propenol | 1.0 mmol, 0.3 g | C1(CC1)C(CO)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C18H16F2O
reactant | pyridinium chlorochromate | 0.5 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-Cyclopropyl-3,3-bis(4-fluorophenyl)-2-propenal | 0.1 g | C1(CC1)C(C=O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C18H14F2O
